US06492531B1
Step 2. Preparation of αphenyl-2-chlorocinnamic acid methyl ester
αPhenyl-2-chlorocinnamic acid (26.29 g (0.102 M) was dissolved in methanol (300 cc). Anhydrous HCl was bubbled through the reaction mixture with stirring for 15 minutes. The reaction mixture was refluxed for 2 hours, then HCl was bubbled through the reaction mixture for another 15 minutes. The reaction was stirred at reflux overnight. The methanol was removed in vacuo and the residue taken up in ether. The ether solution was washed with H2O, saturated NaHCO3 solution, and brine. It was then dried over MgSO4. The ether solution was concentrated in vacuo to yield an oil that quickly solidified to yield 27.13 g of product, mp 67-69° C.

reactant | αPhenyl-2-chlorocinnamic acid | C1(=CC=CC=C1)C(C(=O)O)=CC1=C(C=CC=C1)Cl | C15H11ClO2
reactant | methanol | 300 cc | CO | CH4O
product | αphenyl-2-chlorocinnamic acid methyl ester | 27.13 g | COC(C(=CC1=C(C=CC=C1)Cl)C1=CC=CC=C1)=O | C16H13ClO2
